US07915424B2
(5-Bromo-2-fluorobenzyl)-carbamic acid ethyl ester
Add ethyl chloroformate (0.24 mL, 2.49 mmol) to a solution of 5-bromo-2-fluorobenzylamine hydrochloride (500 mg, 2.08 mmol) in dichloromethane (8 mL) and diisopropylethylamine (0.90 mL, 5.20 mmol). After 3 h dilute the reaction with diethyl ether and wash twice with 1 N hydrochloric acid and once with an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter, and concentrate to give the title compound as a colorless oil (0.527 g, 92%).

reactant | ethyl chloroformate | 2.49 mmol, 0.24 mL | ClC(=O)OCC | C3H5ClO2
reactant | 5-bromo-2-fluorobenzylamine hydrochloride | 2.08 mmol, 500 mg | Cl.BrC=1C=CC(=C(CN)C1)F
reactant | diisopropylethylamine | 5.20 mmol, 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (5-Bromo-2-fluorobenzyl)-carbamic acid ethyl ester | 0.527 g, 92% | C(C)OC(NCC1=C(C=CC(=C1)Br)F)=O | C10H11BrFNO2
